US06703347B2
Iron powder (8.1 g) was added to a solution of methyl 4-fluoro-3-nitrophenylacetate (27.24 g, 0.128 mol) in a mixture of concentrated hydrochloric acid (1.5 ml), isopropanol (265 ml) and water (26.5 ml) and the mixture was stirred at room temperature for 1 hour. A second portion of iron powder (8.1 g) was added and the mixture was heated to reflux for 1 hour. A further quantity of concentrated hydrochloric acid was added and the mixture was refluxed for a further 1 hour. The mixture was cooled to room temperature, filtered through a plug of Hyflo® diatomaceous earth and the filtrate was evaporated in vacuo to give methyl 3-amino-4-fluorophenylacetate (22.98 g) which was used without further purification in the next step.

reactant | methyl 4-fluoro-3-nitrophenylacetate | 0.128 mol, 27.24 g | FC1=C(C=C(C=C1)CC(=O)OC)[N+](=O)[O-] | C9H8FNO4
reactant | hydrochloric acid | 1.5 ml | Cl | ClH
reactant | isopropanol | 265 ml | C(C)(C)O | C3H8O
catalyst | Iron | 8.1 g | [Fe] | Fe
catalyst | iron | 8.1 g | [Fe] | Fe
solvent | water | 26.5 ml | O | H2O
product | methyl 3-amino-4-fluorophenylacetate | 22.98 g | NC=1C=C(C=CC1F)CC(=O)OC | C9H10FNO2
